US08445696B2
A 2000 L reactor was charged with dichloromethane (489.4 kg), followed by 3-hydroxy-3-(7-hydroxy-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-dihydro-2H-indol-2-one (92.0 kg, 307 mol) in four 23 kg portions over 1 h. The resultant solution was stirred at ambient temperature for 1 h and triethylsilane (107.2 kg, 921 mol) was added. The mixture was cooled to −5° C. and trifluoroacetic acid (105.1 kg, 921 mol) was added at a rate of 25-30 kg/h such that the temperature of the reaction mixture remained below 0° C. The mixture was stirred at −5-0° C. for 2.5 h, warmed to 18-20° C., stirred for a further 6.5 h and concentrated to dryness under reduced pressure at a temperature<30° C. Methyl tert-butyl ether (139.8 kg) was added to the residue at 15-20° C. and the mixture concentrated to near-dryness under reduced pressure at a temperature<35° C. The mixture was filtered in a centrifugal filter and a 2000 L reactor was charged with the filter cake, followed by methanol (72.7 kg). The mixture was stirred at 10-15° C. for 0.5 h and filtered in a centrifugal filter. The filter cake was dried under reduced pressure at 40-50° C. to afford 3-(7-hydroxy-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-dihydro-2H-indol-2-one (68.0 kg, 78%) as a colorless solid: purity (HPLC-UV at 254 nm) 99.3%.

reactant | 3-hydroxy-3-(7-hydroxy-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-dihydro-2H-indol-2-one | 307 mol, 92.0 kg | OC1(C(NC2=CC=CC=C12)=O)C1=CC2=C(OCCO2)C=C1O | C16H13NO5
reactant | triethylsilane | 921 mol, 107.2 kg | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 921 mol, 105.1 kg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 489.4 kg | ClCCl | CH2Cl2
product | 3-(7-hydroxy-2,3-dihydro-1,4-benzodioxin-6-yl)-1,3-dihydro-2H-indol-2-one | 68.0 kg, 78% | OC=1C(=CC2=C(OCCO2)C1)C1C(NC2=CC=CC=C12)=O | C16H13NO4
